* C:\Users\seanm\OneDrive\Documents\GitHub\LVBoards\PWMs\Hall Effect\Simulation.asc
V1 N001 0 5
V2 N002 0 2.5
V3 P001 0 2.5
R1 N003 P001 2k
R2 N004 N003 3k
XU1 N002 N003 N001 0 N004 ADA4510
R3 N004 0 1Meg
.dc V3 1 4.5 .1
* .tran 1ms
.lib ADA4510.lib
.backanno
.end
